US07064124B2
N-(6-Chloropyridin-3-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide
5-Amino-2-chloropyridine (0.206 g, 1.604 mmol), triethylamine (0.162 g, 1.604 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.271 g, 1.604 mmol) were added to a methylene chloride solution (100 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.200 g, 0.535 mmol) and the resulting solution was stirred at room temperature for 10 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) and then recrystallized from ether to obtain the titled compound (0.142 g, 0.293 mmol, 55%).

reactant | 5-Amino-2-chloropyridine | 1.604 mmol, 0.206 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | triethylamine | 1.604 mmol, 0.162 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.604 mmol, 0.271 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.535 mmol, 0.200 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(6-Chloropyridin-3-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 0.293 mmol, 0.142 g, 55% | ClC1=CC=C(C=N1)NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C24H21ClN2O7
